US08497264B2
Chlorosuccinimide (10.29 g, 77 mmol) was added to a solution of 4-(6-fluoropyridin-2-yl)morpholine (11.7 g, 64.2 mmol) in ACN (15 mL). The reaction mixture was heated to 70° C. for 30 min. Water and DCM were added. The organic phase was separated, washed with aqueous NaHCO3, brine and subsequently dried over MgSO4. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography (5-20% EtOAc/hexanes) to afford 3.11 g of 4-(5-chloro-6-fluoropyridin-2-yl)morpholine.

reactant | Chlorosuccinimide | 77 mmol, 10.29 g | ClC1C(=O)NC(C1)=O | C4H4ClNO2
reactant | 4-(6-fluoropyridin-2-yl)morpholine | 64.2 mmol, 11.7 g | FC1=CC=CC(=N1)N1CCOCC1 | C9H11FN2O
reactant | Water | O | H2O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | ACN | 15 mL | C(C)#N | C2H3N
product | 4-(5-chloro-6-fluoropyridin-2-yl)morpholine | 3.11 g | ClC=1C=CC(=NC1F)N1CCOCC1 | C9H10ClFN2O
